### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Enriched): enrichement of functor categories over a functor category

### PR DESCRIPTION
**Pull request by joelriou**
Let `C` be a category that is enriched over a monoidal category `V` in such a way that the category structure and the enriched category structure are compatible. If `J` is a category and that `V` has certain limits, then the functor category `J ⥤ C` is enriched over `J ⥤ V`.

---

- [x] depends on: #18414
- [x] depends on: #18009

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Enriched/FunctorCategory.lean [hunk 1]
```diff
@@ -335,4 +346,115 @@ noncomputable def isLimitConeFunctorEnrichedHom :
...
+noncomputable def functorHomEquiv [HasFunctorEnrichedHom V F₁ F₂] [HasEnrichedHom V F₁ F₂] :
+    (F₁ ⟶ F₂) ≃ (𝟙_ (J ⥤ V) ⟶ functorEnrichedHom V F₁ F₂) :=
+  (homEquiv V).trans (isLimitConeFunctorEnrichedHom V F₁ F₂).homEquiv
+
+lemma functorHomEquiv_id [HasFunctorEnrichedHom V F₁ F₁] [HasEnrichedHom V F₁ F₁] :
+    (functorHomEquiv V) (𝟙 F₁) = functorEnrichedId V F₁ := by
+  ext j
+  dsimp [functorHomEquiv]
+  erw [IsLimit.homEquiv_apply]
+  aesop_cat
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Enriched/FunctorCategory.lean:427]:
```suggestion
@[simps!]
noncomputable def functorHomEquiv [HasFunctorEnrichedHom V F₁ F₂] [HasEnrichedHom V F₁ F₂] :
    (F₁ ⟶ F₂) ≃ (𝟙_ (J ⥤ V) ⟶ functorEnrichedHom V F₁ F₂) :=
  (homEquiv V).trans (isLimitConeFunctorEnrichedHom V F₁ F₂).homEquiv

lemma functorHomEquiv_id [HasFunctorEnrichedHom V F₁ F₁] [HasEnrichedHom V F₁ F₁] :
    (functorHomEquiv V) (𝟙 F₁) = functorEnrichedId V F₁ := by
  aesop_cat
```

File: Mathlib/CategoryTheory/Enriched/FunctorCategory.lean [hunk 2]
```diff
@@ -335,4 +346,115 @@ noncomputable def isLimitConeFunctorEnrichedHom :
...
+    [HasFunctorEnrichedHom V F₂ F₃] [HasEnrichedHom V F₂ F₃]
+    [HasFunctorEnrichedHom V F₁ F₃] [HasEnrichedHom V F₁ F₃]
+    (f : F₁ ⟶ F₂) (g : F₂ ⟶ F₃) :
+    (functorHomEquiv V) (f ≫ g) = (λ_ (𝟙_ (J ⥤ V))).inv ≫
+      ((functorHomEquiv V) f ⊗ (functorHomEquiv V) g) ≫ functorEnrichedComp V F₁ F₂ F₃ := by
+  ext j
+  dsimp [functorHomEquiv]
+  rw [homEquiv_comp]
+  erw [IsLimit.homEquiv_apply, IsLimit.homEquiv_apply, IsLimit.homEquiv_apply]
+  dsimp
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Enriched/FunctorCategory.lean:440]:
```suggestion
  dsimp
  rw [homEquiv_comp]
```

Should work with the `simps!` attribute on `functorHomEquiv`

File: Mathlib/CategoryTheory/Enriched/FunctorCategory.lean (hunk 1 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Enriched/FunctorCategory.lean]: Thanks! (I have kept only the `apply_app` lemma, as the other one is not very useful.)

**Comment by dagurtomas** [comment]
Sorry, I completely forgot about this PR. LGTM, I guess the two `erw`s are unavoidable in the same way as in #18414 

maintainer merge

File: Mathlib/CategoryTheory/Enriched/FunctorCategory.lean [hunk 3]
```diff
@@ -335,4 +346,110 @@ noncomputable def isLimitConeFunctorEnrichedHom :
...
+@[simps]
+noncomputable def functorEnrichedId [HasFunctorEnrichedHom V F₁ F₁] :
+    𝟙_ (J ⥤ V) ⟶ functorEnrichedHom V F₁ F₁ where
+  app j := enrichedId V _
+  naturality j j' f := by
+    dsimp
+    ext k
+    dsimp
+    rw [assoc, assoc, id_comp, enrichedId_π]
+    erw [end_.lift_π]
```
Comment (kim-em) [inline Mathlib/CategoryTheory/Enriched/FunctorCategory.lean:359]: I'm happy with the answer "No, this is an unreasonable ask", but:

Could I request that whenever we introduce an `erw`, we *also* include a comment explaining either why it is unavoidable, or better than alternatives?

Optimistically, this will result in some `erw` not happening, as writing the note might inspire a solution.

And otherwise, it means that we won't have to come back to the same `erw` again and again and work out the explanation before forgetting it again.

Comment (kim-em) [reply Mathlib/CategoryTheory/Enriched/FunctorCategory.lean:359]: It seems at this `erw` that the problem is that before the `erw` the composition
```
end_.lift (fun x ↦ enrichedHomπ V (Under.forget j ⋙ F₁) (Under.forget j ⋙ F₁) ((Under.map f).obj x)) ⋯ ≫
      end_.π (diagram V (Under.forget j' ⋙ F₁) (Under.forget j' ⋙ F₁)) k
```
is badly typed, with the target of the first morphism being 
```
end_ (diagram V (Under.map f ⋙ Under.forget j ⋙ F₁) (Under.map f ⋙ Under.forget j ⋙ F₁))
```
and the source of the second morphism being
```
end_ (diagram V (Under.forget j' ⋙ F₁) (Under.forget j' ⋙ F₁))
```

Comment (kim-em) [reply Mathlib/CategoryTheory/Enriched/FunctorCategory.lean:359]: So maybe there is some defeq in `functorEnrichedHom` that could be lifted to an explicit `eqToHom`? I better move on to other things now, sorry.

Perhaps there is a missing piece of tooling here, however. What about a `#check_comp` tactic that looks for all morphism compositions and reports when sources and targets don't match (at reducible+instances transparency). (Or even more generally, a `#check_implicits`.) I'm not saying that any report from this would be a problem, but it might be helpful in identifying what is going on in problems like this.

Comment (kim-em) [reply Mathlib/CategoryTheory/Enriched/FunctorCategory.lean:359]: #21357

Comment (joelriou) [reply Mathlib/CategoryTheory/Enriched/FunctorCategory.lean]: I have managed to remove all `erw` by introducing `precompEnrichedHom'` which is a variant of `enrichedHom V F₁ F₂ ⟶ enrichedHom V (G ⋙ F₁) (G ⋙ F₂)` but with `G ⋙ F₁` and `G ⋙ F₂` replaced by isomorphic functors. I expected it would complicate things, but eventually automation works better...

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
